US08664220B2
Step 3: 1-{4′-[4-(5-Benzyl-[1,3,4]oxadiazol-2-ylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 42, Step 2, using (5-benzyl-[1,3,4]oxadiazol-2-yl)-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-amine and 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester.

reactant | (5-benzyl-[1,3,4]oxadiazol-2-yl)-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-amine | C(C1=CC=CC=C1)C1=NN=C(O1)NC=1C(=NOC1C1=CC=C(C=C1)Br)C | C19H15BrN4O2
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
product | 1-{4′-[4-(5-Benzyl-[1,3,4]oxadiazol-2-ylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC=1OC(=NN1)CC1=CC=CC=C1 | C31H28N4O4
